US06002008
4-[(3,4-dichlorophenyl)amino]-6-nitro-3-quinolinecarbonitrile
A mixture of 5.00 g (21.5 mmol) 4chloro-6-nitro-3quinolinecarbonitrile, 250 ml ethanol, and 4.17 g (25.6 mmol) 3,4-dichloroaniline was heated to reflux under N2. At 3.5 hours, removed head and made basic with saturated sodium bicarbonate. Stripped solvents and azeotroped with ethanol. Slurried residue with hexane, collected solids and washed with water. Dissolved in ethyl acetate, stirred with Darco, filtered, stripped solvent and dried in vacuo, giving 2.106 g of yellow solid: mass spectrum (electrospray m/e): M+H=359.1, 361.0.

reactant | 4chloro-6-nitro-3quinolinecarbonitrile | 21.5 mmol, 5.00 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 3,4-dichloroaniline | 25.6 mmol, 4.17 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-[(3,4-dichlorophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 2.106 g | ClC=1C=C(C=CC1Cl)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H8Cl2N4O2
